US06313122B1
A. N-(6-Phthalimidopyridin-2-yl)-2-nitrobenzamide
Using the procedure described in Example 93, Part A, 2-nitrobenzoyl chloride (2.3 mmol) and 2-amino-6-phthalimidopyridine (2.1 mmol) yielded 654 mg (80%) of the title compound.

reactant | 2-nitrobenzoyl chloride | 2.3 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 2-amino-6-phthalimidopyridine | 2.1 mmol | NC1=NC(=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H9N3O2
product | N-(6-Phthalimidopyridin-2-yl)-2-nitrobenzamide | 654 mg, 80% | C1(C=2C(C(N1C1=CC=CC(=N1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O)=CC=CC2)=O | C20H12N4O5
